US05500453
A solution of 3.35 g of lithium sec-butyltriphenylborate in 50 ml of acetonitrile was added to a solution of 5.00 g of diphenyl(3,3-dicyano-2-phenyl-2-propenyl)sulfonium tetrafluoroborate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 2.87 g of diphenyl(3,3-dicyano-2-phenyl-2-propenyl)sulfonium-(sec-butyl)triphenylborate.

reactant | lithium sec-butyltriphenylborate | 3.35 g | C(C)(CC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
reactant | diphenyl(3,3-dicyano-2-phenyl-2-propenyl)sulfonium tetrafluoroborate | 5.00 g | F[B-](F)(F)F.C1(=CC=CC=C1)[S+](CC(=C(C#N)C#N)C1=CC=CC=C1)C1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | diphenyl(3,3-dicyano-2-phenyl-2-propenyl)sulfonium (sec-butyl)triphenylborate | 2.87 g | C1(=CC=CC=C1)[S+](CC(=C(C#N)C#N)C1=CC=CC=C1)C1=CC=CC=C1.C(C)(CC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H17N2S.C22H24B/c24-16-20(17-25)23(19-10-4-1-5-11-19)18-26(21-12-6-2-7-13-21)22-14-8-3-9-15-22;1-3-19(2)23(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22/h1-15H,18H2;4-19H,3H2,1-2H3/q+1;-1
